* OUT — субсхема из нетлиста KiCad + YAML
.subckt OUT AC_CTL AC_REQ_OUT FAN_PWM_CTL GND HEAT_FAN_PWM_CTL VCC_12V
  * Q1: BSS138 (BSS138) — не моделируется
  * Q3: MMBT3904 (MMBT3904) — не моделируется
  * Q4: MMBT3906 (MMBT3906) — не моделируется
  R13 FAN_PWM_CTL Net-(Q1-G) 1k
  R14 Net-(Q1-D) VCC_12V 4.7k
  R15 Net-(Q1-D) HEAT_FAN_PWM_CTL 1k
  R18 AC_CTL Net-(Q3-B) 10k
  R19 Net-(Q3-B) GND 100k
  R20 Net-(Q3-C) VCC_12V 10k
  R21 Net-(Q4-C) AC_REQ_OUT 1k
.ends OUT
